US07279478B2
Synthesis of (2S)-2-[(5-bromo-1-oxidopyridin-2-yl)(phenyl)methoxy]-N-(cyanomethyl)-4-methylpentanamide
Using the same procedure as described for example 40, (2S)-2-[(5-bromopyridin-2-yl)(phenyl)methoxy]-N-(cyanomethyl)-4-methylpentanamide (51 mg, 0.123 mmol) was oxidized to give the title compound after chromatography with 50% EtOAc/hexane.

reactant | (2S)-2-[(5-bromopyridin-2-yl)(phenyl)methoxy]-N-(cyanomethyl)-4-methylpentanamide | 0.123 mmol, 51 mg | BrC=1C=CC(=NC1)C(O[C@H](C(=O)NCC#N)CC(C)C)C1=CC=CC=C1 | C20H22BrN3O2
reactant | EtOAc hexane | CCOC(=O)C.CCCCCC
product | (2S)-2-[(5-bromo-1-oxidopyridin-2-yl)(phenyl)methoxy]-N-(cyanomethyl)-4-methylpentanamide | BrC=1C=CC(=[N+](C1)[O-])C(O[C@H](C(=O)NCC#N)CC(C)C)C1=CC=CC=C1 | C20H22BrN3O3
